US08604015B2
Quinuclidine-3-carboxylic acid hydrochloride (96 mg, 0.50 mmol), EDC (131 mg, 0.68 mmol), and HOBT (104 mg, 0.68 mmol) were suspended in dry DMF (5 ml). Bis(4-fluorophenyl)methanol (100 mg, 0.45 mmol) and DIPEA (278 μl, 1.59 mmol) were added, and the mixture was stirred at room temperature for 24 hours. Then, quinuclidine-3-carboxylic acid hydrochloride (43.5 mg, 0.23 mmol), EDC (43.5 mg, 0.23 mmol), HOBT (34.8 mg, 0.23 mmol), and DIPEA (79 μl, 0.45 mmol) were added again and stirring was continued for 4 days. Finally quinuclidine-3-carboxylic acid hydrochloride (43.5 mg, 0.23 mmol), EDC (43.5 mg, 0.23 mmol), and DIPEA (79 μl, 0.45 mmol) were added, and the suspension was stirred for additional 24 hours. The reaction was portioned between sat. NaHCO3 and Et2O, and the organic layer was separated, washed again with sat. NaHCO3 and then brine. The organic phase was dried over Na2SO4, filtered, and evaporated to afford bis(4-fluorophenyl)methyl quinuclidine-3-carboxylate (51 mg, racemic mixture). The compound was used as such in the next step.

reactant | Quinuclidine-3-carboxylic acid hydrochloride | 0.50 mmol, 96 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 0.68 mmol, 131 mg
reactant | HOBT | 0.68 mmol, 104 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Bis(4-fluorophenyl)methanol | 0.45 mmol, 100 mg | FC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)F | C13H10F2O
reactant | DIPEA | 1.59 mmol, 278 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | quinuclidine-3-carboxylic acid hydrochloride | 0.23 mmol, 43.5 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 0.23 mmol, 43.5 mg
reactant | HOBT | 0.23 mmol, 34.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.45 mmol, 79 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | quinuclidine-3-carboxylic acid hydrochloride | 0.23 mmol, 43.5 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 0.23 mmol, 43.5 mg
reactant | DIPEA | 0.45 mmol, 79 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | bis(4-fluorophenyl)methyl quinuclidine-3-carboxylate | 51 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | C21H21F2NO2
